US04444773
7-chloromethyl-3-(3-pyridyl)-5H-thiazolo[3,2-a]pyrimidine-5-one, m.p. 280°-290° C. dec. (5.30 g), prepared according to Example 6, was reacted with triphenylphosphine (5 g) in acetonitrile (500 ml) under stirring at the reflux temperature for 40 hours. After cooling the solution was concentrated in vacuo to a small volume, diluted with isopropyl ether and the precipitate was filtered to give 8 g of [3-(3-pyridyl)-5H-thiazolo[3,2-a]pyrimidine-5-one-7-yl]methyl-triphenylphosphonium chloride, which was suspended in dimethylsulfoxide (100 ml) and treated with potassium tert-butoxide (1.66 g) dissolved in dimethylsulfoxide (50 ml) under stirring at room temperature. The solution of the ylide so obtained was reacted with 3-pyridine-carboxaldehyde (1.74 g) at room temperature for 30 minutes then the reaction mixture was diluted with ice water and neutralized with NaH2PO4.

reactant | 7-chloromethyl-3-(3-pyridyl)-5H-thiazolo[3,2-a]pyrimidine-5-one | ClCC=1N=C2N(C(C1)=O)C(=CS2)C=2C=NC=CC2 | C12H8ClN3OS
reactant | triphenylphosphine | 5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | [3-(3-pyridyl)-5H-thiazolo[3,2-a]pyrimidine-5-one-7-yl]methyl-triphenylphosphonium chloride | 8 g | [Cl-].N1=CC(=CC=C1)C1=CSC=2N1C(C=C(N2)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | InChI=1S/C30H23N3OPS.ClH/c34-29-19-24(32-30-33(29)28(22-36-30)23-11-10-18-31-20-23)21-35(25-12-4-1-5-13-25,26-14-6-2-7-15-26)27-16-8-3-9-17-27;/h1-20,22H,21H2;1H/q+1;/p-1
